US05358947
5-Amino-3-(4-fluorophenyl)-1H-pyrazole-1-carboxamide
To a stirred solution of 12.0 g of semicarbazide hydrochloride in 200 ml of ethyl alcohol is added 5.35 g of sodium methoxide. The reaction mixture is stirred for 15 minutes and 16.3 g of p-fluorobenzoylacetonitrile added. The reaction mixture is heated at reflux for 2 hours, cooled and concentrated in vacuo to a separated solid which is filtered and washed with water and air dried. The solid is dissolved in 200 ml of ethyl alcohol and 5 ml of triethylamine followed by reflux for 1 hour. The volatiles are evaporated in vacuo to a solid which is filtered, washed with water and air dried to give 8.0 g of the desired product as a solid, m.p. 140° C.

reactant | semicarbazide hydrochloride | 12.0 g | Cl.NNC(=O)N
reactant | sodium methoxide | 5.35 g | C[O-].[Na+]
reactant | p-fluorobenzoylacetonitrile | 16.3 g | FC1=CC=C(C(=O)CC#N)C=C1 | C9H6FNO
solvent | ethyl alcohol | 200 ml | C(C)O | C2H6O
product | 5-Amino-3-(4-fluorophenyl)-1H-pyrazole-1-carboxamide | 8.0 g | NC1=CC(=NN1C(=O)N)C1=CC=C(C=C1)F | C10H9FN4O
